US09193719B2
3-(1-(Benzyloxy)-2-methylpropan-2-yl)-1-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one (0.41 g, 0.80 mmol), and palladium(0) on carbon (10% w/w, 0.20 g, 0.19 mmol) were combined in EtOAc (4.0 mL) under an atmosphere of Ar. The reaction flask was depressurized and back-filled with H2 (g). This process was repeated (2×) and the reaction mixture was stirred under a balloon of H2 (g) for 12 h. Formic acid (0.5 mL) was added and stirring was continued an additional 12 h at RT. The reaction mixture was transferred to a Parr hydrogenation shaker and reaction was continued under 40 psi H2 (g) atmosphere. After 5 h, the Pd was removed by filtration through a pad of diatomaceous earth and the filter cake was washed with EtOAc (4×25 mL). The combined filtrates were concentrated in vacuo. The residue was purified by silica gel chromatography (MeOH/DCM) to afford 3-(1-hydroxy-2-methylpropan-2-yl)-1-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one (0.053 g, 15%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.85-11.83 (m, 1H), 8.36 (d, J=5.7 Hz, 1H), 8.26 (s, 1H), 7.96 (s, 1H), 7.86 (d, J=8.8 Hz, 1H), 7.69 (d, J=8.8 Hz, 1H), 7.18 (d, J=2.4 Hz, 1H), 6.65 (dd, J=5.7, 2.4 Hz, 1H), 4.92-4.91 (m, 1H), 3.84 (s, 3H), 3.45-3.43 (m, 2H), 2.33 (s, 3H), 1.20 (s, 6H); MS (ESI) m/z: 422.2 (M+H+).

reactant | 3-(1-(Benzyloxy)-2-methylpropan-2-yl)-1-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one | 0.80 mmol, 0.41 g | C(C1=CC=CC=C1)OCC(C)(C)C1=NN(C(N1)=O)C1=NC(=C(C=C1)OC1=CC(=NC=C1)C=1C=NN(C1)C)C | C28H29N7O3
reactant | Formic acid | 0.5 mL | C(=O)O | CH2O2
solvent | EtOAc | 4.0 mL | CCOC(=O)C | C4H8O2
catalyst | palladium(0) | [Pd] | Pd
product | 3-(1-hydroxy-2-methylpropan-2-yl)-1-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one | 0.053 g, 15% | OCC(C)(C)C1=NN(C(N1)=O)C1=NC(=C(C=C1)OC1=CC(=NC=C1)C=1C=NN(C1)C)C | C21H23N7O3
